US08648081B2
Add methyl 2-(2-oxopropylthio)acetate (35.4 g, 183.2 mmol) to a freshly prepared solution of solid sodium (8.78 g, 381.5 mmol) in dry MeOH (300 mL) at 0° C., followed by addition of a solution of cyclohexane-1,2-dione (20 g, 152.6 mmol) in MeOH (30 mL). Stir the mixture at 0° C. for 30 min and then at 50-60° C. for additional 1.5 hour. Remove the solvent under vacuum and dilute the residue with water (100 mL). Extract the aqueous mixture with ethyl acetate (100 mL×3). The combined organic layers are washed with brine, dried over anhydrous Na2SO4, and evaporated under vacuum. Purify the residue by a flash column on silica gel eluting with PE:EtOAc (50:1 to 30:1) to afford methyl 3-acetyl-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxylate as a white solid (10 g, 27.6%). MS (m/z): 239 (M+1).

reactant | methyl 2-(2-oxopropylthio)acetate | 183.2 mmol, 35.4 g | O=C(CSCC(=O)OC)C | C6H10O3S
reactant | sodium | 381.5 mmol, 8.78 g | [Na] | Na
reactant | cyclohexane-1,2-dione | 152.6 mmol, 20 g | C1(C(CCCC1)=O)=O | C6H8O2
solvent | MeOH | 300 mL | CO | CH4O
solvent | MeOH | 30 mL | CO | CH4O
product | methyl 3-acetyl-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxylate | 10 g, 27.6% | C(C)(=O)C1=C2C(=C(S1)C(=O)OC)CCCC2 | C12H14O3S
